US04138490
Thionyl chloride (0.109 ml.) was added by syringe to a suspension of α-[1-(4-methylbenzyl)-6-methyl-1,2-dihydro-2-oxoquinol-4-yl]propionic acid (0.335 g.) in toluene (3.5 ml.) (dried over sodium wire). The mixture was heated under reflux until evolution of gas ceased, and was then evaporated in vacuo. The residue was mixed with further dry toluene (5 ml.) and then evaporated in vacuo, and dried at ambient temperature under high vacuum, to give α-[1(4-methylbenzyl)-6-methyl-1,2-dihydro-2-oxoquinol-4-yl]propionyl chloride, which was dissolved without purification in dry toluene (2.5 ml.). The solution thus obtained was added by syringe to a solution of phenol (0.052 g.) in pyridine (0.044 ml.). The mixture was then stirred at ambient temperature for 45 minutes and then at 80° C. for 30 minutes. After being left at ambient temperature overnight, the reaction solution was mixed with ethyl acetate (20 ml.). The solution was then washed successively with 2N-hydrochloric acid (20 ml.), water (20 ml.), 2N-sodium hydroxide solution (2 × 20 ml.), water (20 ml.) and then saturated sodium chloride solution (20 ml.). The organic phase was separated, dried (MgSO4) and evaporated in vacuo. The residue was recrystallised from cyclohexane to give phenyl α-[1-(4-methylbenzyl)-6-methyl-1,2-dihydro-2-oxoquinol-4-yl]propionate, m.p. 111°-113° C., in 58% yield.

reactant | Thionyl chloride | 0.109 ml | S(=O)(Cl)Cl | Cl2OS
reactant | α-[1-(4-methylbenzyl)-6-methyl-1,2-dihydro-2-oxoquinol-4-yl]propionic acid | 0.335 g | CC1=CC=C(CN2C(C=C(C3=CC(=CC=C23)C)C(C(=O)O)C)=O)C=C1 | C21H21NO3
solvent | toluene | 3.5 ml | C1(=CC=CC=C1)C | C7H8
product | α-[1(4-methylbenzyl)-6-methyl-1,2-dihydro-2-oxoquinol-4-yl]propionyl chloride | CC1=CC=C(CN2C(C=C(C3=CC(=CC=C23)C)C(C(=O)Cl)C)=O)C=C1 | C21H20ClNO2
